US08629157B2
Step 3: Synthesis of (Z)-3-amino-4,4-dimethyl-pent-2-enethioic acid amide
(Z)-3-amino-4,4-dimethyl-pent-2-enenitrile (26 g, 209.35 mmol), sodium sulfide decahydrate (5.71 g, 73.27 mmol) and tetrabutyl ammonium chloride (9.31 g, 33.49 mmol) in benzene and water (215 mL, 2.5:1, v/v) is stirred at 75° C. under hydrogen sulfide gas for three days. 200 mL of ethyl acetate is added and the layers separated. The organic layer is washed with water, dried over sodium sulfate, filtered and concentrated under reduced pressure to afford the title compound. Yield 23% over three steps. ESI m/z 159=MH+

reactant | (Z)-3-amino-4,4-dimethyl-pent-2-enenitrile | 209.35 mmol, 26 g | N\C(=C/C#N)\C(C)(C)C | C7H12N2
reactant | sodium sulfide decahydrate | 73.27 mmol, 5.71 g | O.O.O.O.O.O.O.O.O.O.[S-2].[Na+].[Na+]
reactant | ethyl acetate | 200 mL | C(C)(=O)OCC | C4H8O2
catalyst | tetrabutyl ammonium chloride | 33.49 mmol, 9.31 g | [Cl-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | benzene | C1=CC=CC=C1 | C6H6
solvent | water | O | H2O
product | (Z)-3-amino-4,4-dimethyl-pent-2-enethioic acid amide | Yield 23% | N\C(=C/C(N)=S)\C(C)(C)C | C7H14N2S
